US07462600B2
3-Bromo-5-methoxy-4-methylpridine (0.76 g) was placed in a single neck round bottom flask with NaOtBu (1.4 eq), BINAP (0.8 eq), Pd2(dba)3 (0.25 eq), and benzhydrylideneamine (1 eq) in toluene 20 ml, and refluxed at 150° C. for 4 h. The reaction was partitioned between water and EtOAc, and the EtOAc layer dried over Na2SO4. The product was purified by SGC (EtOAc/ Hexane) affording 5-methoxy-4-methyl-N-(diphenymethylene)pyridine-3-amine. MS (ESI+) for m/z 302 [M+H]+.

reactant | 3-Bromo-5-methoxy-4-methylpridine | 0.76 g | BrC=1C=NC=C(C1C)OC | C7H8BrNO
reactant | NaOtBu | 1.4 eq | CC(C)(C)[O-].[Na+]
reactant | BINAP | 0.8 eq | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | benzhydrylideneamine | 1 eq | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.25 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-methoxy-4-methyl-N-(diphenymethylene)pyridine-3-amine | COC=1C(=C(C=NC1)N=C(C1=CC=CC=C1)C1=CC=CC=C1)C | C20H18N2O
